US06465060B1
(5-Propyl-tetrahydrothiophen-2-yl)methyl [4(5-undecyl-pyrimidin-2-yl)phenyl]ether
A fully reacted mixture of equimolar amounts of diethyl azodicarboxylate and triphenylphosphine in THF is admixed with equimolar amounts of 4-(5-undecyl-pyrimidin-2-yl)phenol and 5-propyl-tetrahydrothiophen-2-yl-methanol (prepared by LiAIH4 reduction of methyl 5-propyl-tetrahydrothiophene-2-carboxylate). The mixture is stirred for 24 h at room temperature and then evaporated to dryness under reduced pressure. Purification by chromatography (silica gel, dichloromethane) and recrystallization affords the target compound. The compounds (I-13) and (I-14) can be obtained in a similar manner.

reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-(5-undecyl-pyrimidin-2-yl)phenol | C(CCCCCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)O | C21H30N2O
reactant | 5-propyl-tetrahydrothiophen-2-yl-methanol | C(CC)C1CCC(S1)CO | C8H16OS
solvent | THF | C1CCOC1 | C4H8O
product | (5-Propyl-tetrahydrothiophen-2-yl)methyl [4(5-undecyl-pyrimidin-2-yl)phenyl]ether | C(CC)C1CCC(S1)COC1=CC=C(C=C1)C1=NC=C(C=N1)CCCCCCCCCCC | C29H44N2OS
